US04367238
N-Bromosuccinimide (6.56 g) and 2,2'-azobisisobutyronitrile (100 mg) were added to a solution of 2-methoxyphenyl 2-methoxy-3-methylphenyl ether (9.0 g) in benzene (100 ml), and the mixture was refluxed under heating for 2 hrs. The reaction mixture was evaporated, and water was added to the residue. The mixture was extracted with diethyl ether, and the extract was washed with water, dried over magnesium sulfate and then evaporated to give oily residue of 2-methoxyphenyl 2-methoxy-3-bromomethylphenyl ether (12.10 g).

reactant | N-Bromosuccinimide | 6.56 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-methoxyphenyl 2-methoxy-3-methylphenyl ether | 9.0 g | COC1=C(C=CC=C1C)OC1=C(C=CC=C1)OC | C15H16O3
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
catalyst | 2,2'-azobisisobutyronitrile | 100 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | 2-methoxyphenyl 2-methoxy-3-bromomethylphenyl ether | 12.10 g | COC1=C(C=CC=C1CBr)OC1=C(C=CC=C1)OC | C15H15BrO3
